US07176310B1
B. 4-Chloro-2-methylsulfanylpyrimidine-5-carboxylic acid (4-fluorophenyl)amide
To a mixture of 4-chloro-2-methylsulfanylpyrimidine-5-carbonyl chloride prepared above (113 mg, 0.54 mmol) in dichloromethane was added 4-fluoroaniline (56 μL, 0.59 mmol). This was followed by the dropwise addition of DIPEA. The mixture was stirred for 15 min, the mixture was diluted with dichloromethane, washed with water and saturated aqueous sodium bicarbonate and was dried over sodium sulfate. Filtration and concentration afforded a residue that was purified by trituration from ethyl acetate with hexanes. The resulting off-white solid (122 mg, 0.41 mmol, 76%) was sufficiently pure to use without further purification. 1H NMR (300 MHz, DMSO-d6) δ 10.7 (s, 1H), 8.86 (s, 1H), 7.69 (m, 2H), 7.23 (m, 2H), 2.56 (s, 3H); MS (EI) m/z 296.2 (M−H)−.

reactant | 4-chloro-2-methylsulfanylpyrimidine-5-carbonyl chloride | ClC1=NC(=NC=C1C(=O)Cl)SC | C6H4Cl2N2OS
reactant | 4-fluoroaniline | 0.59 mmol, 56 μL | FC1=CC=C(N)C=C1 | C6H6FN
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-Chloro-2-methylsulfanylpyrimidine-5-carboxylic acid (4-fluorophenyl)amide | FC1=CC=C(C=C1)NC(=O)C=1C(=NC(=NC1)SC)Cl | C12H9ClFN3OS
